US09371318B2
Step 2: Methyl 3-(4-(diethoxymethyl)phenyl)propanoate
1-Methyl-1,4-cyclohexadiene (10.0 mL, 89 mmol) was added to a suspension of (E)-methyl 3-(4-(diethoxymethyl)phenyl)acrylate (2.41 g, 9.13 mmol) and 10% palladium on carbon (2.4 g) in ethanol (40 mL). The reaction mixture was heated at 60° C. for 1.5 hours. The reaction mixture was filtered through celite and the filter cake washed with further ethanol. The solvent was evaporated at reduced pressure to afford the title compound (2.15 g, 89%).

reactant | 1-Methyl-1,4-cyclohexadiene | 89 mmol, 10.0 mL | CC1=CCC=CC1 | C7H10
reactant | (E)-methyl 3-(4-(diethoxymethyl)phenyl)acrylate | 9.13 mmol, 2.41 g | C(C)OC(C1=CC=C(C=C1)/C=C/C(=O)OC)OCC | C15H20O4
catalyst | palladium on carbon | 2.4 g | [Pd] | Pd
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | Methyl 3-(4-(diethoxymethyl)phenyl)propanoate | 2.15 g, 89% | C(C)OC(C1=CC=C(C=C1)CCC(=O)OC)OCC | C15H22O4
